US06953806B2
In analogy to the method described in example 12.1, trans-N-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide was reacted with ethylamine in N,N-dimethylacetamide at room temperature to yield trans-N-{2-[4-(3-ethylamino-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide as colorless viscous oil, MS: 433 (MH+).

reactant | trans-N-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | ClC/C=C/[C@@H]1CC[C@H](CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H25ClF3NO2S
reactant | ethylamine | C(C)N | C2H7N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-N-{2-[4-(3-ethylamino-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | C(C)NC/C=C/[C@@H]1CC[C@H](CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C21H31F3N2O2S
